US08258169B2
To a stirred solution N-methoxy-N-methyl-3-(2,4,6-trichloro-phenyl)-propionamide (0.9 g, 3.04 mmol) in toluene (18 mL), DIBAL-H (15.2 mL, 15.2 mmol) was added at −60° C. slowly in drops over a period of 20 minutes and the reaction mass was stirred at −60° C. for 3 hours. Reaction mass was then quenched with dil. HCl (20 ml) in drops, followed by dilution with water (10 ml) and stirred for 15 minutes. Toluene layer was separated and resulting aqueous phase was extracted with ethyl acetate (30 mL×3). The combined organic layer was washed with water and brine. The organic layer was then dried over anhydrous sodium sulphate and concentrated under reduced pressure. The resulting crude mass was purified over column chromatography (silica gel 60-120 mesh, 2% ethyl acetate in hexane) to afford white crystalline solid of 3-(2,4,6-trichloro-phenyl)-propionaldehyde (0.45 g, 62.5%)

reactant | N-methoxy-N-methyl-3-(2,4,6-trichloro-phenyl)-propionamide | 3.04 mmol, 0.9 g | CON(C(CCC1=C(C=C(C=C1Cl)Cl)Cl)=O)C | C11H12Cl3NO2
reactant | DIBAL-H | 15.2 mmol, 15.2 mL | CC(C)C[AlH]CC(C)C
solvent | toluene | 18 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(2,4,6-trichloro-phenyl)-propionaldehyde | 0.45 g, 62.5% | ClC1=C(C(=CC(=C1)Cl)Cl)CCC=O | C9H7Cl3O
